US09162986B2
Proceeding as in Reference 19, but substituting 3-bromo-N-butyl-5-formyl-4-methoxy-benzenesulfonamide (0.65 g, 1.72 mmol) and N-tert-butyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzenesulfonamide (0.64 g, 1.90 mmol, 1.1 eq.), gave N-butyl-N′-tert-butyl-5-formyl-6-methoxy-biphenyl-3,3′-disulfonamide (0.74 g) as on orange oil.

reactant | 3-bromo-N-butyl-5-formyl-4-methoxy-benzenesulfonamide | 1.72 mmol, 0.65 g | BrC=1C=C(C=C(C1OC)C=O)S(=O)(=O)NCCCC | C12H16BrNO4S
reactant | N-tert-butyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzenesulfonamide | 1.90 mmol, 0.64 g, 1.1 eq. | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H26BNO4S
product | N-butyl-N′-tert-butyl-5-formyl-6-methoxy-biphenyl-3,3′-disulfonamide | 0.74 g | C(CCC)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)OC)C1=CC(=CC=C1)S(=O)(=O)NC(C)(C)C | C22H30N2O6S2
